US06331640B1
B. N-[2-chloro-4-[1-hydroxy-3-(3-hydroxyphenyl)propyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine
A solution of N-[2-chloro-4-[1-oxo-3-(3-hydroxyphenyl)propyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine, methyl ester (120 mg, 0.23 mmol) and lithium hydroxide monohydrate (40 mg, 0.95 mmol) in tetrahydrofuran/methanol/water (2:2:1; 2.5 mL) was stirred at room temperature for 90 min. The solvent was evaporated, then water was added, followed by 1 M HCl (1.1 mL). The resulting solid was filtered off, washed with water, dried, and purified by

reactant | N-[2-chloro-4-[1-oxo-3-(3-hydroxyphenyl)propyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine, methyl ester | 0.23 mmol, 120 mg | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)OC)C=CC(=C1)C(CCC1=CC(=CC=C1)O)=O | C25H23ClN2O6S
reactant | lithium hydroxide monohydrate | 0.95 mmol, 40 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 2.5 mL | O1CCCC1.CO.O
product | N-[2-chloro-4-[1-hydroxy-3-(3-hydroxyphenyl)propyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(CCC1=CC(=CC=C1)O)O | C24H23ClN2O6S
